US08420823B2
(Step 1) Production of 3-[(4-fluorophenyl)thio]benzoic acid
Copper(II) oxide (4.01 g) and cesium carbonate (19.7 g) were added in that order to an N-methylpyrrolidinone (100 mL) solution of 4-fluorobenzenethiol (3.10 g) and 3-iodobenzoic acid (5.00 g), and stirred overnight at 160° C. After left cooled, the solid in the reaction solution was removed through filtration. 1 M hydrochloric acid was added to the filtrate, extracted three times with ethyl acetate and dried with sodium sulfate. The drying agent was removed through filtration, and the solvent was evaporated off under reduced pressure. The residue was suspended in a mixed solvent of chloroform/hexane, and the solid was collected through filtration to give the intended product (4.08 g, 82%) as a white solid.

reactant | cesium carbonate | 19.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluorobenzenethiol | 3.10 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | 3-iodobenzoic acid | 5.00 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
catalyst | Copper(II) oxide | 4.01 g | [Cu]=O
solvent | N-methylpyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 3-[(4-fluorophenyl)thio]benzoic acid | 4.08 g, 82% | FC1=CC=C(C=C1)SC=1C=C(C(=O)O)C=CC1 | C13H9FO2S
